US07319098B2
Synthesis of 1-(3-{[2-(3-chloro-benzyl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-carbonyl]-amino}-propyl)-2-methyl-piperidinium chloride (Compound 82)
2-(3-chloro-benzyl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-carboxylic acid (100 mg, 0.316 mmol) and 3-(2-methylpiperidin-1-yl)propan-1-amine (138 μL, 0.792 mmol) were reacted with each other. Target compound in the amount of 106 mg (68%) was obtained by following the procedure described in Example 1.

reactant | 2-(3-chloro-benzyl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-carboxylic acid | 0.316 mmol, 100 mg | ClC=1C=C(CN2C(C3=CC=C(C=C3C2=O)C(=O)O)=O)C=CC1 | C16H10ClNO4
reactant | 3-(2-methylpiperidin-1-yl)propan-1-amine | 0.792 mmol, 138 μL | CC1N(CCCC1)CCCN | C9H20N2
product | 1-(3-{[2-(3-chloro-benzyl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-carbonyl]-amino}-propyl)-2-methyl-piperidinium chloride | [Cl-].ClC=1C=C(CN2C(C3=CC=C(C=C3C2=O)C(=O)NCCC[NH+]2C(CCCC2)C)=O)C=CC1 | InChI=1S/C25H28ClN3O3.ClH/c1-17-6-2-3-12-28(17)13-5-11-27-23(30)19-9-10-21-22(15-19)25(32)29(24(21)31)16-18-7-4-8-20(26)14-18;/h4,7-10,14-15,17H,2-3,5-6,11-13,16H2,1H3,(H,27,30);1H
